US08314098B2
Synthesis of N-(1H-indol-3-yl-methylidene)-N′-(2-methyl-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 80)
There was dissolved, in ethanol (2 mL), (2-methyl-7-morpholin-4-yl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine (24.5 mg, 0.0988 mM) and then acetic acid (5.0 μL, 0.087 mM) and indole-3-carboxyaldehyde (15.8 mg, 0.109 mM) were added to the solution and the mixture was stirred at room temperature for 2 hours. This reaction liquid was filtered and then the resulting solid was washed with methanol to thus give the title compound (26.4 mg, yield: 71%).

reactant | (2-methyl-7-morpholin-4-yl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0988 mM, 24.5 mg | CC1=NN2C(N=C(C=C2N2CCOCC2)NN)=C1 | C11H16N6O
reactant | acetic acid | 0.087 mM, 5.0 μL | C(C)(=O)O | C2H4O2
reactant | indole-3-carboxyaldehyde | 0.109 mM, 15.8 mg | C1=CC=C2C(=C1)C(=CN2)C=O | C9H7NO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(1H-indol-3-yl-methylidene)-N′-(2-methyl-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 26.4 mg, yield: 71% | N1C=C(C2=CC=CC=C12)C=NNC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C | C20H21N7O
